US06716837B1
6-[4-Hydroxy-azabicyclo[4,3,0]nonan-4-yl]-indole (compound 29)
In a similar fashion, 6-[4-Hydroxy-1-methyl-piperidin-4-yl]-indole was prepared from 6-bromoindole (1.0 g, 5 mmol); KH (0.225 g, 5.6 mmol), 1.7M tBuLi (7.5 ml, 12.7 mmol) and N-methyl-4-piperidone (1.246 g, 10.9 mmol). Yield 0.382 g (35%).

reactant | 6-[4-Hydroxy-1-methyl-piperidin-4-yl]-indole | OC1(CCN(CC1)C)C1=CC=C2C=CNC2=C1 | C14H18N2O
reactant | 6-bromoindole | 5 mmol, 1.0 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | tBuLi | 12.7 mmol, 1.7M, 7.5 ml | [Li]C(C)(C)C
reactant | N-methyl-4-piperidone | 10.9 mmol, 1.246 g | CN1CCC(CC1)=O | C6H11NO
product | 6-[4-Hydroxy-azabicyclo[4,3,0]nonan-4-yl]-indole | OC1(CCN2CCCC2C1)C1=CC=C2C=CNC2=C1 | C16H20N2O
